************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: BG_PNP_array
* View Name:     schematic
* Netlisted on:  Jun 22 00:51:39 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: REF_GEN
* Cell Name:    BG_PNP_array
* View Name:    schematic
************************************************************************

.SUBCKT BG_PNP_array A B GNDA
*.PININFO A:B B:B GNDA:B
QQ3 GNDA GNDA GNDA pnp5ux5u M=3 AE=25p
QQ2 GNDA GNDA GNDA pnp5ux5u M=7 AE=25p
QQ1 GNDA GNDA B pnp5ux5u M=255 AE=25p
QQ0 GNDA GNDA A pnp5ux5u M=1 AE=25p
.ENDS

